US07579449B2
1-fluoro-4-(β-D-glucopyranos-1-yl)-2-(4-ethynyl-benzyl)-benzene
0.33 ml of a 1 M solution of tetrabutylammoniumfluorid in tetrahydrofuran are added to a solution of 0.23 g 1-fluoro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-(triisopropylsilylethynyl-benzyl)-benzene in 1.5 ml of tetrahydrofuran. The solution is stirred for 1 h at ambient temperature. Then 1 ml of methanol and 1.5 ml of 4 M potassium hydroxide solution are added and the solution is stirred for a further hour at ambient temperature. The solution is neutralised with 1 M hydrochloric acid and then the methanol is evaporated off. The residue is combined with aqueous sodium chloride solution and extracted with ethyl acetate. The organic extracts collected are dried over sodium sulphate, and the solvent is removed. The residue is chromatographed through silica gel (dichloromethane/methanol 19:1->2:1).

reactant | tetrabutylammoniumfluorid | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-fluoro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-(triisopropylsilylethynyl-benzyl)-benzene | 0.23 g | FC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C(C1=CC=CC=C1)C#C[Si](C(C)C)(C(C)C)C(C)C | C38H49FO10Si
reactant | potassium hydroxide | 4 M, 1.5 ml | [OH-].[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | 1-fluoro-4-(β-D-glucopyranos-1-yl)-2-(4-ethynyl-benzyl)-benzene | FC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C#C | C21H21FO6
